datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C)[NH]1 10=20;20,21=21"
"[OH:21][C:20]1([H])C([H])C(C)C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)C(C)C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH]C([H])C(C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C([H])C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C1=CC=CC=C1)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][S:10]C(C)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C([H])C(O)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(O)C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)C.[O-:21]C>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)C 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)[H])C)CC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)CC)CC 10=20;20,21=21"
"CN([C:20](=[O:10])O[H])C1=CC=CC=C1.[O-:21]CC>>CN([C:20]([O-:10])(O[H])[O:21]CC)C1=CC=CC=C1 21=20;20,10=10"
"[H][S:10]C(C)C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C(C)C([H])C(O)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(O)C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])C 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C([O-:21])C)CC)CCCCCC>>CCN([C:20]1(OC(C([O:21]1)C)CC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21][H])([NH]C)[O][H].[Cl-]>>[Cl-].[H][NH:10][H].[H][NH+:21]=[C:20]([NH]C)[O][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C)CC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CC.[O-:21]CC 10=20;20,21=21"
"[OH:21][C:20]1(OCC)[OH+:10]C(CCC)C([H])C1C>>[OH:10]C(CCC)C([H])C([C:20](OCC)=[OH+:21])C 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)CCCCCC)[H])[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)[H])CCCCCC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[NH]2.C[O:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C1=CC=CC=C1)C>>[H]C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21]C 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)[H])[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)[H])CCCCCC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC)C 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C(C)[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
